US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylphenyl}-N′-(2-methylbenzoyl)thiourea
Commercially available 2-methyl-1-benzenecarbonyl isothiocyanate (50 μl) was dissolved in ethanol (1 ml) to prepare a solution. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylaniline (50 mg), toluene (5 ml), and ethanol (1 ml) were added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (46 mg, yield 59%).

reactant | 2-methyl-1-benzenecarbonyl isothiocyanate | 50 μl | CC1=C(C=CC=C1)C(=O)N=C=S | C9H7NOS
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylaniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)C | C18H18N2O3
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-methylphenyl}-N′-(2-methylbenzoyl)thiourea | 46 mg, yield 59% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=S)NC(C1=C(C=CC=C1)C)=O)C | C27H25N3O4S
